US05580883
Trifluoroacetic acid (25 ml) was added to 1-tert-butyloxycarbonyl-4-(N-acetyl-N-hexylaminophenyloxy)piperidine (12.5 g) with ice-cooling and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and methylene chloride (50 ml) was added to the residue and the mixture was washed with aqueous saturated solution of sodium bicarbonate. The aqueous layer was extracted with methylene chloride (50 ml×3), the combined organic layer were dried over anhydrous sodium sulfate and the solvent was distilled off to obtain 4-(N-acetyl-N-hexylaminophenyloxy)piperidine (9.7 g) as a brown oil.

reactant | Trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-tert-butyloxycarbonyl-4-(N-acetyl-N-hexylaminophenyloxy)piperidine | 12.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)N(CCCCCC)C(C)=O | C24H38N2O4
product | 4-(N-acetyl-N-hexylaminophenyloxy)piperidine | 9.7 g | C(C)(=O)N(CCCCCC)C1=C(C=CC=C1)OC1CCNCC1 | C19H30N2O2
